US04599333
A solution of 66 mg of 1-(2-methylphenoxy)-3-[1,1,-dimethyl-2-(3-ethoxycarbonylhydrazino-6-pyridazinylamino)ethylamino]-2-propanol in 5 ml of 10% hydrochloric acid was refluxed for 5 hours. After the solvent was evaporated under reduced pressure, the residue was recrystallized from ethanol to give 31 mg of 1-(2-methylphenoxy)-3-[1,1-dimethyl-2-(3-hydrazino-6-pyridazinylamino)ethylamino]-2-propanol hydrochloride as colorless crystals.

reactant | 1-(2-methylphenoxy)-3-[1,1,-dimethyl-2-(3-ethoxycarbonylhydrazino-6-pyridazinylamino)ethylamino]-2-propanol | 66 mg | CC1=C(OCC(CNC(CNC2=CC=C(N=N2)NNC(=O)OCC)(C)C)O)C=CC=C1 | C21H32N6O4
reactant | hydrochloric acid | 5 ml | Cl | ClH
product | 1-(2-methylphenoxy)-3-[1,1-dimethyl-2-(3-hydrazino-6-pyridazinylamino)ethylamino]-2-propanol hydrochloride | 31 mg | Cl.CC1=C(OCC(CNC(CNC2=CC=C(N=N2)NN)(C)C)O)C=CC=C1 | InChI=1S/C18H28N6O2.ClH/c1-13-6-4-5-7-15(13)26-11-14(25)10-21-18(2,3)12-20-16-8-9-17(22-19)24-23-16;/h4-9,14,21,25H,10-12,19H2,1-3H3,(H,20,23)(H,22,24);1H
